US05753658
1-Ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[4-(4-acetamidobenzenesulfonyl)-1-piperazinyl]-3-quinolinecarboxylic acid
2.80 g of 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid is suspended in 100 ml of pyridine. To this suspension is slowly added 7.76 g of 4-acetamidobenzenesulfonyl chloride in 20 ml of benzene under ice-cooling while stirring. Stirring is continued for 1 hour under ice-cooling and then for further 3 hours at room temperature. The reaction mixture is concentrated under reduced pressure. To the residue is added 1N sodium hydroxide solution to dissolve. The pH of the solution is then adjusted to 4 with acetic acid. Precipitating crystals are collected by filtration, washed with water and recrystallized from dimethylformamide (DMF)-ethanol to give 4.10 g of the titled compound. Melting point: 276°-277° C.

reactant | 1-ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-(1-piperazinyl)-3-quinolinecarboxylic acid | 2.80 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCNCC1)F)=O)C(=O)O | C16H17F2N3O3
reactant | 4-acetamidobenzenesulfonyl chloride | 7.76 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 1-Ethyl-6,8-difluoro-1,4-dihydro-4-oxo-7-[4-(4-acetamidobenzenesulfonyl)-1-piperazinyl]-3-quinolinecarboxylic acid | 4.10 g | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(C)=O)F)=O)C(=O)O | C24H24F2N4O6S
